US04946926
An amount of 3-(4'-methoxyphenoxy)benzoic acid (40.7 g, 0.167 mole) was dissolved in 200 ml of acetic acid to which 150 ml of a 48 percent solution of hydrogen bromide (HBr) was added (Aldrich Chemical Company). The reaction mixture was heated to reflux under nitrogen for 14.5 hours. The cooled reaction mixture was then diluted with 400 ml of ethyl acetate (EtOAc), washed with saturated NaCl (3×150 ml), dried with MgSO4, filtered, and solvent evaporated to afford a dark brown solid. The crude product was dissolved in methanol, treated with activated carbon, filtered through a celite pad, and evaporated. Recrystallization of the product (1:1 acetic acid/water) gave 3-(4'-hydroxyphenoxy)benzoic acid as tan crystals with a m.p. of 163° C. to 166° C.

reactant | 3-(4'-methoxyphenoxy)benzoic acid | 0.167 mole, 40.7 g | COC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C14H12O4
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen bromide | Br | BrH
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 3-(4'-hydroxyphenoxy)benzoic acid | OC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C13H10O4
